US05981533
Under a N2 atmosphere, 0.92 g (6.38 mmol) of tetracyanoethylene oxide (Fluka, Buchs/Switzerland) is added to 618.5 mg (2.9 mmol) of 4-nitro-dithiobenzoic acid methyl ester (for preparation see J. prakt. Chem. 331, 243 (1989)) in 5 ml of toluene and the reaction mixture is then boiled for 4 hours. The reaction mixture is cooled, 10 g of silica gel are added thereto and the reaction mixture is concentrated by evaporation using a rotary evaporator. Application of the residue to a silica gel column and elution with hexane/ethyl acetate (2:1) yield 3-(4-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile; TLC: Rf =0.46 (ethyl acetate:hexane=1:2); MS: (M)+ =245.

reactant | tetracyanoethylene oxide | 6.38 mmol, 0.92 g | C(#N)C1(C(C#N)(C#N)O1)C#N | C6N4O
reactant | 4-nitro-dithiobenzoic acid methyl ester | 2.9 mmol, 618.5 mg | CSC(C1=CC=C(C=C1)[N+](=O)[O-])=S | C8H7NO2S2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C(=C(C#N)C#N)SC | C11H7N3O2S
